US07799805B2
4-{4-[2-(tert-Butyldimethylsilanyloxy)ethoxy]phenyl}-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (F1)
To a sol. of 4-[2-(tert-butyldimethylsilanyloxy)ethoxy]bromobenzene (WO 03/093267, 7.95 g, 24 mmol) in THF (200 mL) at −78° C. was added BuLi (1.6M in hexane, 17.12 mL, 27.4 mmol). The sol. was stirred at −78° C. for 30 min, then ZnCl2 (1M in THF, 30 mL, 30 mmol) was added. The resulting sol. was allowed to warm to rt, and 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (WO 2004/002957, 7.79 g, 20 mmol) in THF (20 mL) and Pd(PPh3)4 (0.69 g, 0.60 mmol) were added. The reaction mixture was heated to 50° C. for 1 h, and stirred 16 h at rt. The mixture was cooled to 0° C., and aq. sat. NH4Cl was added. EtOAc was added, and the org. phase was washed with brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 2:8→1:0) yielded the title compound (8.1 g, 82%). LC-MS: tR=1.23 min, ES+: 506.47.

reactant | 4-[2-(tert-butyldimethylsilanyloxy)ethoxy]bromobenzene | 24 mmol, 7.95 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)Br | C14H23BrO2Si
reactant | BuLi | 27.4 mmol, 1.6M, 17.12 mL | [Li]CCCC
reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 20 mmol, 7.79 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 30 mmol, 1M, 30 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.60 mmol, 0.69 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{4-[2-(tert-Butyldimethylsilanyloxy)ethoxy]phenyl}-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 8.1 g, 82% | COC(=O)C=1CN(CCC1C1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C26H41NO6Si
